US06258824B1
6-[(5-Chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one
Following the same procedure as described in example 1F, (5-chloro-thiophen-2-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol (810 mg, 1.60 mmol) was treated with HCl in aqueous THF to yield the title compound (578 mg, 74% yield).

reactant | (5-chloro-thiophen-2-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 1.60 mmol, 810 mg | ClC1=CC=C(S1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C27H24ClN3O3S
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 6-[(5-Chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 578 mg, 74% yield | ClC1=CC=C(S1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C26H22ClN3O3S
